US09085606B2
Preparation of 5-bromo-3-tert-butylsalicylaldehyde
To a stirred solution of 3-tert-butylsalicylaldehyde (5.13 g, 28.8 mmol) in acetic acid (15 mL) was added a solution of bromine (1.65 mL, 32.25 mmol) in acetic acid (7.0 mL) dropwise within 20 min. The reaction mixture was stirred at room temperature for 3 h. Analytical HPLC analysis after 3 h shows the desired product ˜72% and the unreacted starting material ˜28%. A second batch of bromine (0.5 mL) in acetic acid (3 mL) was added and the reaction mixture was stirred at room temperature for another 3 h. Analytical HPLC analysis of the reaction mixture after 3 h (6 h total) shows the desired product ˜85% and still shows the starting material ˜15%. After 6 h of stifling, the reaction mixture was diluted with dichloromethane (50 mL) and the organic layer was washed with 39% sodium bisulfite solution (1×10 mL), water, saturated NaHCO3 and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to give the desired product as a pale yellow crystalline solid (7.2421 g). Purification by silica-gel flash chromatography on silica gel column and elution with 0-5% ethyl acetate in n-heptane afforded the desired product as a pale yellow crystalline solid (4.792 g, 64% yield). LC-MS analysis of the product in negative mode shows the desired product's mass: m/z 255 (79BrM+−H) and m/z 257 (81BrM+−H). GC-MS analysis of the product in CI mode (Methane) shows the desired product's mass: m/z 256 (91BrM+) and m/z 258 (81BrM+), calc'd. for C11H13BrO2: 257.124. 1H NMR (400 MHz, CDCl3): δ 1.39 (s, 9H, t-Bu-), 7.50 (s, 1H, H-4), 7.56 (s, 1H, H-6), 9.79 (s, 1H, —CHO), 11.70 (s, 1H, —OH). 1H NMR of the isolated product was identical with that of a previously reported sample of the product (Girsch et al., 2007).

reactant | 3-tert-butylsalicylaldehyde | 28.8 mmol, 5.13 g | C(C)(C)(C)C1=C(C(C=O)=CC=C1)O | C11H14O2
reactant | bromine | 32.25 mmol, 1.65 mL | BrBr | Br2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 7.0 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-3-tert-butylsalicylaldehyde | ~72% | BrC1=CC(=C(C(C=O)=C1)O)C(C)(C)C | C11H13BrO2
